US07338950B2
4-(3-Methoxypyridin-2-yl)benzoic acid
4-bis(hydroxyl)boron-1-methylbenzoate (2.8 mmol; 582 mg) was dissolved in acetonitrile (2 ml) and added to a 5 ml microwave vessel. To the solution was 3.5 mmol of 2-chloro-3-methoxypyridine (482 mg), 34 mg of tetrakis(triphenylphosphine)palladium(0). After stirring until dissolution, 8.4 mmol of potassium carbonate (1.16 g) was added, followed by 1 ml of water. The mixture was then heated at 160° C. for 300 seconds. After reaction completion, the solvents were evaporated under vacuum. The residue was dissolved in 2N KOH and THF and heated for 10 min. After hydrolysis, the THF was evaporated and the basic layer was washed with EtOAC. The aqueous layer was then acidified and extracted 3 times with EtOAc. The organic layers were combined and washed with water and brine. After drying, filtration and evaporation, the residue was triterated with ether to give the desired product as a yellow solid (423 mg; 77%).

reactant | 2-chloro-3-methoxypyridine | 3.5 mmol, 482 mg | ClC1=NC=CC=C1OC | C6H6ClNO
reactant | potassium carbonate | 8.4 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-Methoxypyridin-2-yl)benzoic acid | 423 mg, 77% | COC=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C13H11NO3
